US06794395B1
(4) 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-6-phenyl-2-indolinone
Prepared from 6-phenyl-2-indolinone, triethyl orthopropionate and acetic anhydride

reactant | 6-phenyl-2-indolinone | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | triethyl orthopropionate | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-6-phenyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C1=CC=CC=C1)=C(C1=CC=CC=C1)OCC)=O | C25H21NO3
